US04218455
1-(4-Fluorophenyl)-4-[1,2,3,6-tetrahydro-4-(phenylthio)-1-pyridinyl]-butanone Hydrochloride.
A mixture of 16.7 g of 4-(phenylthio)-1,2,3,6-tetrahydropyridine, 17.6 g of 4-chloro-p-fluorobutyrophenone and 20 g of potassium carbonate in 200 ml of toluene is refluxed for 48 hours. The inorganic salts are separated by filtration. The filtrate is evaporated, and the residue is treated with dilute hydrochloric acid. The resulting precipitate is collected to afford 12.5 g (36.4%) of tan powder, m.p. 165°-170° C. dec. Three recrystallizations from acetonitrile gives tan plates, m.p. 172°-174° C. dec.

reactant | 4-(phenylthio)-1,2,3,6-tetrahydropyridine | 16.7 g | C1(=CC=CC=C1)SC=1CCNCC1 | C11H13NS
reactant | 4-chloro-p-fluorobutyrophenone | 17.6 g | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Fluorophenyl)-4-[1,2,3,6-tetrahydro-4-(phenylthio)-1-pyridinyl]-butanone Hydrochloride | 12.5 g, 36.4% | Cl.FC1=CC=C(C=C1)CC(CCN1CCC(=CC1)SC1=CC=CC=C1)=O | InChI=1S/C21H22FNOS.ClH/c22-18-8-6-17(7-9-18)16-19(24)10-13-23-14-11-21(12-15-23)25-20-4-2-1-3-5-20;/h1-9,11H,10,12-16H2;1H
